US05731405
A mixture of 2,4-dinitrophenol (85 wt %, 6.72 g, 31 mmol), octadecyl bromide (20.7 g, 62 mmol), sodium carbonate (6.57 g, 62 mmol) and dimethylformamide (31 mL) was heated to 100° C. under a nitrogen atmosphere for 22 h. The cooled mixture was diluted with water (200 mL), acidified with 10N hydrochloric acid (50 mL) and extracted with ether. The extracts were washed with water and brine, and dried over magnesium sulfate. The solvent was removed and the solid recrystallized to give 1-octadecyloxy-2,4-dinitrobenzene (10.7 g, 79%): mp 63.5°-64.0° C.

reactant | 2,4-dinitrophenol | 31 mmol, 6.72 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | octadecyl bromide | 62 mmol, 20.7 g | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | sodium carbonate | 62 mmol, 6.57 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 10N, 50 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | dimethylformamide | 31 mL | CN(C=O)C | C3H7NO
product | 1-octadecyloxy-2,4-dinitrobenzene | 10.7 g, 79% | C(CCCCCCCCCCCCCCCCC)OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C24H40N2O5
